US07018786B2
Synthesis of 1-phenyluracil (TA-3)
2.05 g NaH (41 mmol as 50% suspension in mineral oil) was added to 55 ml dry dioxane. 3.87 g (28.4 mmol) phenylurea was then added portionwise while keeping the reaction mixture under an argon atmosphere and then was heated for a few minutes to 50° C. After cooling the resulting mixture to room temperature, 6.31 g (42.6 mmol) of methyl 3,3-dimethoxypropionate was added, the mixture then refluxed for 2 hours, after which the resulting mixture was allowed to cool to room temperature. The cooled mixture was then poured into 280 ml 40% acetic acid, stored overnight in a refrigerator and then extracted twice with 140 ml chloroform. The collected chloroform fractions were dried over MgSO4 and evaporated under reduced pressure. The residue was crystallized from methanol using after treatment with activated carbon yielding 0.88 g (16%) of 1-phenyluracil (m.p. 244–245° C., Lit. 244–255° C. (Winckelmann et al., Synthesis 1986, 1041)).

reactant | NaH | 41 mmol, 2.05 g | [H-].[Na+]
reactant | dioxane | 55 ml | O1CCOCC1 | C4H8O2
reactant | phenylurea | 28.4 mmol, 3.87 g | C1(=CC=CC=C1)NC(=O)N | C7H8N2O
reactant | methyl 3,3-dimethoxypropionate | 42.6 mmol, 6.31 g | COC(CC(=O)OC)OC | C6H12O4
solvent | acetic acid | 280 ml | C(C)(=O)O | C2H4O2
product | 1-phenyluracil | C1(=CC=CC=C1)N1C(=O)NC(=O)C=C1 | C10H8N2O2
